US09403798B2
rac-(3R,5S)-5-(4-Fluorophenyl)tetrahydrofuran-3-yl acetate
Iodobenzene diacetate (4.18 g, 13.0 mmol), acetic acid (2.0 mL), and trifluoromethanesulfonic acid (44.2 μL, 0.500 mmol) were added to 1-(4-fluorophenyl)but-3-en-1-ol (1.66 g, 10.0 mmol) and the resultant mixture was stirred at 50° C. for 4 hours. After completion of the reaction, the reaction solution was concentrated and saturated sodium bicarbonate aqueous solution was added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to obtain a compound of Reference Synthesis Example 227 as the title compound (645 mg, yield 29%) and a compound of Reference Synthesis Example 228 as the title compound (503 mg, yield 22%).

reactant | Iodobenzene diacetate | 13.0 mmol, 4.18 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | trifluoromethanesulfonic acid | 0.500 mmol, 44.2 μL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 1-(4-fluorophenyl)but-3-en-1-ol | 10.0 mmol, 1.66 g | FC1=CC=C(C=C1)C(CC=C)O | C10H11FO
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | rac-(3R,5S)-5-(4-Fluorophenyl)tetrahydrofuran-3-yl acetate | 645 mg, yield 29% | C(C)(=O)OC1COC(C1)C1=CC=C(C=C1)F | C12H13FO3
